US04600709
66 g (297.8 mmol) of 4-chloro-3-nitrobenzenesulphinic acid (produced by reduction of 4-chloro-3-nitrobenzenesulphonyl chloride with sodium sulphite) are condensed with 41.95 g (337.9 mmol) of 4-methyl-1,2-benzenediol in a manner analogous to that described in Example 4, yielding 4-(4-chloro-3-nitrophenylsulphonyl)-5-methyl-1,2-benzenediol in the form of crystals having a melting point of 196°-197° (from ethyl acetate/hexane).

reactant | 4-chloro-3-nitrobenzenesulphinic acid | 297.8 mmol, 66 g | ClC1=C(C=C(C=C1)S(=O)O)[N+](=O)[O-] | C6H4ClNO4S
reactant | 4-methyl-1,2-benzenediol | 337.9 mmol, 41.95 g | CC=1C=C(C(=CC1)O)O | C7H8O2
product | 4-(4-chloro-3-nitrophenylsulphonyl)-5-methyl-1,2-benzenediol | ClC1=C(C=C(C=C1)S(=O)(=O)C=1C=C(C(=CC1C)O)O)[N+](=O)[O-] | C13H10ClNO6S
